US04150135
A. N-Phenethyl-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline
A solution of 10.0 g (37 mmoles) of 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline in 250 ml of anhydrous dimethylformamide was added with stirring to a suspension of 2.8 g (55.5 mmoles) of 50% sodium hydride in mineral oil (washed with pentane) in 125 ml of anhydrous dimethylformamide heated at 50° under nitrogen. The mixture was heated at 90° for 2 hours, then cooled to 40°, at which time a solution of 14.0 g (74 mmoles) of phenethyl bromide in 20 ml of anhydrous dimethylformamide was added and the reaction mixture heated at 90° overnight. The cooled solution was poured into ice-water and extracted with ether. Evaporation of the ether gave an oil which was purified by column chromatography (Silicar CC-7, eluting with acetone-benzene). The major fraction was identified as N-phenethyl-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline.

reactant | 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline | 37 mmoles, 10.0 g | COC=1C=C(C=CC1)[C@@]12CC(NC([C@@H]2CCCC1)=O)=O | C16H19NO3
reactant | sodium hydride | 55.5 mmoles, 2.8 g | [H-].[Na+]
reactant | pentane | CCCCC | C5H12
reactant | phenethyl bromide | 74 mmoles, 14.0 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-Phenethyl-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline | C(CC1=CC=CC=C1)N1C([C@H]2CCCC[C@]2(CC1=O)C1=CC(=CC=C1)OC)=O | C24H27NO3
